US07572927B2
A microsystem composed of three T-shaped micromixers (M1, M2 and M3) and two microtube reactors (R1 and R2) was used. The whole microsystem was dipped in a cooling bath (−78° C.). A solution of o-dibromobenzene (0.27 M) in THF (flow rate: 6 mL/min, 1.62 mmol/min) and a solution of n-BuLi (1.5 M) in n-hexane (flow rate: 1.2 mL/min, 1.8 mmol/min) were introduced to the first T-shaped mixer M1 (inner diameter: 250 μm) by using syringe pumps. The resulting solution was passed through the tube reactor R1 and was mixed with chlorotributylstannane (Bu3SnCl) (0.32 M) in THF (flow rate: 6 mL/min, 1.92 mmol/min) in the second T-shaped mixer M2 (inner diameter: 500 μm). The resulting solution was passed through the tube reactor R2 and was introduced to the third T-shaped mixer M3 (inner diameter: 500 μm), where the solution was quenched with methanol (neat, flow rate=3.0 mmol/min). The residence time of the tube reactor R1 (inner diameter: 500 μm, length=50 cm) was 0.82 second. The residence time of the tube reactor R2 (inner diameter: 1,000 μm, length=50 cm) was 1.78 second. After finishing the reaction, an aliquot of the product solution was taken (15 sec) and was concentrated, then the residue was subjected to silica gel column chromatography (hexane) to refine, 2-bromophenyltributylstannane was obtained as colorless oil in 81% yield, 146.6 mg. 1H NMR (400 MHz, CDCl3) δ: 0.88 (t, J=7.2 Hz, 9H), 1.12-1.17 (m, 6H), 1.27-1.38 (m, 6H), 1.51-1.60 (m, 6H), 7.10-7.15 (dt, J=7.6, 1.6 Hz, 1H), 7.18-7.23 (dt, J=7.6, 1.2 Hz, 1H), 7.27-7.31 (dd, J=7.6, 1.6 Hz, 1H), 7.44-7.50 (dd, J=7.6, 1.6 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ: 11.0, 13.8, 27.4, 29.1, 126.1, 129.8, 131.5, 133.2, 137.8, 146.5. HRMS (EI) m/z: calcd. for C14H22BrSn (M+-C4H9) 388.9927, found 388.9925.

reactant | o-dibromobenzene | 0.27 M | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | chlorotributylstannane | 0.32 M | Cl[Sn](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 2-bromophenyltributylstannane | 81% yield | BrC1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H4Br.3C4H9.Sn/c7-6-4-2-1-3-5-6;3*1-3-4-2;/h1-4H;3*1,3-4H2,2H3;
